US06949542B2
4-[3-(8-Ethyl-4-oxo-7-trifluoromethyl-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl)-phenyl]-pyridine-2-carbonitrile
The title compound was prepared from (2-{3-[3-(2-cyano-pyridin-4-yl)-phenyl]-3-oxo-propionylamino}-5-ethyl-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (Example M190) (300 mg, 0.54 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a white solid (158 mg, 67%).

reactant | (2-{3-[3-(2-cyano-pyridin-4-yl)-phenyl]-3-oxo-propionylamino}-5-ethyl-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | 0.54 mmol, 300 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)CC)C(F)(F)F)NC(CC(=O)C1=CC(=CC=C1)C1=CC(=NC=C1)C#N)=O)=O | C29H27F3N4O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-[3-(8-Ethyl-4-oxo-7-trifluoromethyl-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl)-phenyl]-pyridine-2-carbonitrile | C(C)C=1C(=CC2=C(N=C(CC(N2)=O)C=2C=C(C=CC2)C2=CC(=NC=C2)C#N)C1)C(F)(F)F | C24H17F3N4O
